US07947692B2
A mixture of (3-Chloro-phenyl)-[4-(7-methoxy-thiazolo[5,4-d]pyrimidin-2-ylcarbamoyl)-piperazin-1-yl]-acetic acid methyl ester (100 mg, 0.21 mmol) in tetrahydrofuran (3 mL) at 0° C. was added lithium aluminum hydride (25 mg, 0.66 mmol). The mixture was warmed up to room temperature and stirred for two hours. LCMS analysis indicated a mixture of starting material and product. The reaction was worked up using Feiser's conditions and the crude obtained was then purified using reversed phase HPLC to give 4-[1-(3-Chloro-phenyl)-2-hydroxy-ethyl]-piperazine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide as a white powder; LRMS for C19H21ClN6O3S (M+H)+ at m/z=449. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | (3-Chloro-phenyl)-[4-(7-methoxy-thiazolo[5,4-d]pyrimidin-2-ylcarbamoyl)-piperazin-1-yl]-acetic acid methyl ester | 0.21 mmol, 100 mg | COC(C(N1CCN(CC1)C(NC=1SC=2N=CN=C(C2N1)OC)=O)C1=CC(=CC=C1)Cl)=O | C20H21ClN6O4S
reactant | lithium aluminum hydride | 0.66 mmol, 25 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4-[1-(3-Chloro-phenyl)-2-hydroxy-ethyl]-piperazine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide | COC=1C2=C(N=CN1)SC(=N2)NC(=O)N2CCN(CC2)C(CO)C2=CC(=CC=C2)Cl | C19H21ClN6O3S
